Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
"I came in for an evaluation." 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including Dr. ___ initial consultation 
note dated ___, Dr. ___ 
___ consultation note dated ___, and Dr. 
___ admission note dated ___. 
.
Briefly, this is a ___ year old divorced man, originally from ___ 
___, no formal psychiatric or medical history, no 
prior psychiatric hospitalizations, who presented to ___ ED 
via EMS after police due to increasingly erratic behavior and 
concern for hallucinations. 
. 
On initial interview, patient was notably agitated and notably 
disorganized, stating he "hadn't talked with my family in ___ 
years," stating he believed the ___ Sox were coming to pick him 
up to go to spring ___, repeatedly stating, "you guys keep 
changing the conditions." Of note, after several attempts at 
verbal de-escalation, the patient received physical and chemical
restraints. 
. 
Collateral from his aunt, ___ ___, who was 
interviewed with a ___ interpreter revealed the police were 
called because the patient was acting strangely, saying things 
that did not make sense at all. Patient was reportedly pacing, 
hitting walls, and seemed out of control. She reported that over 
the last two days he has appeared to be listening to voices and 
saying he has friends that no one else can see. In addition, he 
had not been eating or drinking for the past ___ days and did 
not sleep over the weekend. Patient had also been saying that he 
was playing for the ___. 
. 
Aunt reported that patient sometimes stated he was not feeling 
well and had intermittent odd behavior for the past ___ years, 
but he has never been this ill before. 
. 
ED Course: see above
. 
On my interview with Mr. ___, who was initially seen in his 
room self dialoguing and who greeted this clinician with a fist 
bump, and who was a very unreliable historian, he stated he is 
unsure why he is in the hospital. Reported he was at home when 
"someone called the ambulance at 3 am and brought me to the 
hospital... I figured there was something else going on like a 
movie," clarifying that he thinks he may be in the scene of a 
movie. Reported he had been in a hospital before but denies 
being psychiatrically admitted in the past. However, he did 
state he saw a psychiatrist in the past who diagnosed him as 
"fine." He then went on to talk about how he works with 
children, telling us that he thrives private baseball lessons. 
. 
Patient reports that he lives with his parents in ___, which is 
why he thinks his parents may have called ___. However, 
continues to state he has no idea why they may be concerned for 
him. "At this point, I'm just trusting my parents and team and 
stuff... can I just leave?" Mr. ___ reported his mood "keeps 
changing... it's in and out, which one of the things that has 
been happening." He then went on to state that "I believe I am 
one of the most stable and rational people alive." Denies 
struggling living with his parents, stating, "people here don't 
bother me but sometimes the whole psychological perception can 
lead our minds to wonder."  
. 
Patient stated his sleep had "changed a little bit... it varies" 
and reported sleeping about ___ hours per night, although the 
time he goes to bed and wakes up varies. Reported "fine" energy 
and stated "I feel ready to work 30 hours if I need to do 
something. Reported appetite was also "fine" and denied changes 
in weight. Denied suicidal ideation or thoughts of self harm. Of 
note, at one point during the interview, the patient started 
crossing himself, stating that he felt that the resident 
psychiatrist, Dr. ___, reminded him of a friend who 
passed away. 
. 
Patient did admit that he was under the impression that the ___ 
___ were picking him up to go to ___ and that he would have 
the opportunity to go to ___ with them. When asked 
how he got this impression, he stated that the police officers 
who came to his house told him. He stated that for the past "48 
hours I've been worried about pretty much everyone based on the 
suggestions, but I hope everything is fine." He then went on to 
state, "I have tremendous patience for the past ___ years... I can 
explain it but right now it's changing... I've been waiting for 
a long time." When asked to clarify, patient could not but 
mentioned something about "the opportunity of life." 
. 
Patient alluded to thought insertion, stating, "sometimes I feel 
like people are putting things into my head but I live a 
balanced life" and stated that "based on what is happening, I do 
believe there is a suggestion that others know what I'm 
thinking, Reported that in the past he has been able to go ___ 
days without needing sleep, stating he would be working or 
partying in the past. Denied history of excessive amounts of 
energy, grandiosity, denied history of increased spending, 
hypersexuality. Denied history of rapid speech. He did allude to 
periods of depression in the past stating there has been a 
period of 2 days where he had difficulty getting out of bed. 
However, stated depression did not persist. 
. 
Patient denied significant alcohol use but reported he had 
restarted smoking cannabis about 3 weeks ago. Patient was 
amenable to being in the hospital and amenable to a trial of 
risperidone at this time,. 

 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: no formal diagnoses 
- SA/SIB: denies/denies 
- Hospitalizations: denies 
- Psychiatrist: none 
- Therapist: none 
- Medication Trials: no medication trials 

Past Medical History: 
- reported history of asthma 

 
Social History:
Substance History:  
- Alcohol: Patient reported "casual use," no history of 
blackouts
- Illicits: smokes cannabis daily for at least the past 3 weeks. 
Prior to this patient reported he had not used in ___ years. 
Denies other illicit drug use. 
- Tobacco: Reported history of tobacco use, patient states he 
has not used in a while 
. 
Social History: Born and raised in ___ as the 
only child of his parents. Stated he came to the ___ 
in ___, following his mother, who came before him a few months 
before him. Reported he was raised "with the whole family," 
starting he has a number of cousins. States his mother used to
work in a ___ and his father worked for ___ 
for ___ years. Both are retired and patient reports "they're both 
doing great." He did state that coming to the ___ and learning a 
new language was challenging. Stated he attended ___ 
___ and played sports- he stated he did not graduate ___ 
school but apparently passed his GED and obtained an associates 
degree in ___ justice. Also stated he was a baseball 
player, playing left field and as a ___ in college. He has 
worked in the worked in the past and most recently he stated he 
was coaching baseball and teaching private lessons as well as 
working for a ___. Married ___ years and divorced in ___. He 
has 4
children ages ___, ___, ___, and ___ who are currently with their 
mothers. ___ history of charge of driving without a license 
but denies current charges/court dates. Denies access to guns. 
Denies history of sexual or physical abuse.

 
Family History:
Family History: Per OMR, patient 
- Diagnoses: none known history of psychiatric diagnoses 
- Suicides: none 
- Addictions: patient reports ___ family members with addictions 
issue, but states they are "functional
 
Physical Exam:
ADMISSION EXAM:

Vital Signs:
-T 97.6, BP 137/90, HR 81, RR 18, SpO2 99%RA

General:
-HEENT: 
     Normocephalic, atraumatic. Moist mucous membranes,
oropharynx clear, supple neck. No scleral icterus.
-Cardiovascular: 
     Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops.           
     Distal pulses ___ throughout.
-Pulmonary: 
     No increased work of breathing. Lungs clear to auscultation
bilaterally. No wheezes/rhonchi/rales.
-Abdominal: 
     Non-distended, bowel sounds normoactive. No tenderness to
palpation in all quadrants. No guarding, no rebound tenderness.
-Extremities: 
     Warm and well-perfused. No edema of the limbs.
-Skin: 
     No rashes or lesions noted.

Neurological:
-Cranial Nerves:
     -I: Olfaction not tested
     -II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally, VFF to confrontation
     -III, IV, VI: EOMI without nystagmus
     -V: Facial sensation intact to light touch in all
distributions
     -VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
     -VIII: Hearing intact to finger rub bilaterally
     -IX, X: Palate elevates symmetrically
     -XI: ___ strength in trapezii and SCM bilaterally
     -XII: Tongue protrudes in midline
-Motor: 
     -Normal bulk and tone bilaterally
     -No abnormal movements, no tremor
     -Strength ___ throughout
-Sensory: 
     -No deficits to fine touch throughout
-DTRs: 
     -2+ and symmetrical throughout
-Coordination: 
     -Normal on finger to nose test, no intention tremor noted
-Gait: 
     -Good initiation
     -Narrow-based, normal stride and arm swing
     -Able to walk in tandem without difficulty
     -Romberg absent

Cognition: 
-Wakefulness/alertness: 
     -Awake and alert
-Attention: 
     -MOYb with 2 errors, EARTH backwards no errors, days of the
week backwards no errors
-Orientation: 
     -Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): 
     -Not tested
-Memory: 
     -___ registration
     -___ spontaneous recall after 5 min
     -___ categorical cues
     -___ multiple choice
     -Long-term grossly intact
-Fund of knowledge: 
     -Consistent with education
     -Intact to last 3 presidents
-Calculations: 
     -$1.75 = 7 quarters
-Abstraction: 
     -"Don't judge a book by its cover" = "Don't pass premature,
is your first assumptions of a person someone, someone can think
anything, for example if you have a group of people from
different religions participate in different activities, and 
kids
don't care, and you have them learn about different people,
sometimes they don't like other cultures, and you can tell by a
simple gathering, you know?"
-Visuospatial: 
     -Not assessed
-Language: 
     -Native ___ speaker, no paraphasic errors, appropriate
to conversation

Mental Status:
-Appearance: 
     -___ yo Latino M, appearing stated age, large muscular 
build,
tattoos on upper arms bilaterally, adequate hygiene and 
grooming,
wearing hospital gown, does not appear to be in distress.
-Behavior: 
     -Sitting in chair but frequently shifting positions,
intermittently picks at his toes during interview, smiling and
laughing frequently saying "correct", intermittently
self-dialogues in ___, frequently points to areas around
room.
-Attitude: 
     -Cooperative, engaged, friendly
-Mood: 
     -"Fine"
-Affect: 
     -Bright affect, full range, appropriate to situation,
reactive
-Speech: 
     -Normal rate but at times pressured (difficult to interrupt
for redirection), tangential, quiet volume, normal prosody, and
husky tone
-Thought process: 
     -Tangential (although at times circumstantial, able to
return to original question without redirection), grossly
coherent, goal-oriented, notable loosening of associations
(frequently jumps between family, philosophy, his religious
beliefs, his instincts)
-Thought Content:
     -Safety: Denies SI/HI   
     -Delusions: No evidence of paranoia, etc. 
     -Obsessions/Compulsions: No evidence based on current
encounter
     -Hallucinations: Denies AVH (although endorses 
"instincts"),
not appearing to be attending to internal stimuli
-Insight: Limited
-Judgment: Poor

DISCHARGE EXAM:
Vitals: Temp: 97.4 PO BP: 137/85 HR: 112 RR: 17 O2
sat: 96% 

Mental Status:
-Appearance: ___ year old ___ man who appears stated age, 
sitting up in chair in NAD
-Behavior: calm, smiles occasionally, makes appropriate eye 
contact, answers questions appropriately, no psychomotor 
agitation or retardation
-Attitude: cooperative, engaged
-Mood: "stable"
-Affect: euthymic, pleasant, normal range of affect
-Speech: Normal rate, normal volume and tone, rhythm normal
-Thought process: linear, goal-directed, no tangentiality, no 
circumstantiality, no loose associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence based on current encounter
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Patient denies AVH and does not appear to be 
responding to internal stimuli
-Insight: improving
-Judgment: improving

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: Not formally assessed but attentive to interview
-Orientation: Oriented to person, place, situation
-Memory: Not formally assessed but intact to interview
-Language: Fluent ___ speaker, no paraphasic errors,
appropriate to conversation
 
Pertinent Results:
___ 11:40PM BLOOD WBC-12.1* RBC-4.78 Hgb-14.2 Hct-43.0 
MCV-90 MCH-29.7 MCHC-33.0 RDW-13.0 RDWSD-42.7 Plt ___

___ 11:40PM BLOOD Neuts-87.3* Lymphs-5.4* Monos-6.5 
Eos-0.1* Baso-0.5 Im ___ AbsNeut-10.54* AbsLymp-0.65* 
AbsMono-0.78 AbsEos-0.01* AbsBaso-0.06

___ 11:40PM BLOOD Glucose-135* UreaN-17 Creat-1.0 Na-140 
K-3.8 Cl-100 HCO3-22 AnGap-18

___ 06:55PM BLOOD ALT-20 AST-27 AlkPhos-76 TotBili-0.7

___ 06:55PM BLOOD Calcium-9.7 Phos-3.2 Mg-2.2 Cholest-201*

___ 06:55PM BLOOD ___ Folate-7

___ 10:26PM BLOOD %HbA1c-5.3 eAG-105

___ 06:55PM BLOOD Triglyc-42 HDL-94 CHOL/HD-2.1 LDLcalc-99

___ 06:55PM BLOOD TSH-0.99

___ 11:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ 08:00AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-40* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG

___ 08:00AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

___ 07:03PM BLOOD Valproa-54
 
Brief Hospital Course:
This is a ___ year old divorced man, originally from ___ 
___, no formal psychiatric or medical history, no 
prior psychiatric hospitalizations, who presented to ___ ED 
via EMS after police due to increasingly erratic behavior and 
concern for hallucinations. 
. 
Patient was notably a limited historian but review of 
OMR/collateral was concerning for history of approximately ___ 
years of possible psychotic symptoms with recent decompensation 
as noted above with poor sleep and appetite, patient appearing 
to respond to internal stimuli, bizarre behaviors, grandiosity. 
Mental status examination on admission notable for "fine" mood 
with hyperthymic affect, thought process that is disorganized, 
with patient noted to be self dialoguing in his room. 
. 
Diagnostically, differential is broad at this time, particularly 
given reported cannabis use. Differential includes substance 
induced psychosis, BPAD with mania and psychotic features, 
schizophrenia. Given young age and good health, psychosis 
secondary to underlying medical condition is less likely at this 
time. Regardless of diagnosis, given his significant psychosis 
with very poor insight and judgment, he continues to meet 
inpatient level of care for diagnostic clarification, initiation 
of medication, and discharge/safety planning. 
. 
#. Legal/Safety: patient admitted to ___ on a ___, upon admission he signed a conditional voluntary form, which 
was accepted. Of note, Mr. ___ maintained his safety 
throughout his psychiatric hospitalization on 15 minute checks 
and did not require physical or chemical restraints. 
.
#. Psychosis: as noted above 
- The patient was encouraged to attend groups and was noted to 
be active in the milieu with no unsafe behaviors. However, he 
was noted to be self dialoguing and responding to internal 
stimuli during his hospitalization. Given significant concern 
for psychosis, we discussed the risks and benefits of 
risperidone, which Mr. ___ was amenable to. This was 
titrated to 2 mg po qam and 6 mg po qhs with no complaints of 
side effects. 
- Given concerns for mania with hyperthymic affect, disorganized 
thought process, disruptions in sleep, grandiosity, we also 
discussed the risks and benefits of Depakote, which was started 
at 1500 mg po qhs. He tolerated this well with no complaints of 
side effects and with Depakote level= 54. However, given his 
significant improvement, this was not increased further. 
- On the above medication regimen, patient's condition improved 
significantly and patient was noted to be self dialoguing 
significantly less with thought process that became linear, 
logical, goal and future oriented with euthymic affect. Patient 
agreed to continue his medications and follow up with outpatient 
treaters. 
- Family meeting was held on ___, at which time the patient's 
aunt and mother expressed their concerns regarding his behavior 
at home. They noted that he had been talking to himself and 
sometimes not making sense for the past ___ years, but that in 
recent months he had become markedly disorganized. Of note, 
prior to discharge, his family was amenable to discharge plan 
for him return home. 
- Of note, he consistently denied suicidal ideation, thoughts of 
self harm, thoughts of wanting to harm others throughout his 
hospitalization and was able to attend to his ADL's without 
difficulty. 
.
#. Cannabis use disorder: as above
- Patient was provided with psychoeducation on the risks of 
cannabis use, particularly relating to worsening psychosis. He 
stated he would abstain from using cannabis when discharged 

 
Medications on Admission:
None
 
Discharge Medications:
1.  Divalproex (EXTended Release) 1500 mg PO QHS  
RX *divalproex ___ mg 3 tablet(s) by mouth every evening. Disp 
#*42 Tablet Refills:*0 
2.  RisperiDONE 8 mg PO DAILY 
RX *risperidone 2 mg 1 tablet by mouth every morning and 3 
tablets by mouth every evening. Disp #*56 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Brief psychotic disorder 
Cannabis use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Your prescriptions are ready for you to pick up at ___ 
Pharmacy located at ___.
Phone: ___
When you enter the building, there will be a full service ___ to 
your left, and the specialty pharmacy will be to your right. 
Enter the specialty pharmacy to your right.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___